US06258824B1
21A. [4-(3-Chloro-phenyl)-2-methoxy-quinolin-6-yl]-(3-chloro-thiophen-2-yl)-(3-methyl-3H-imidazol-4-yl)-methanol
Following the same procedure as described in example 1E, 6-bromo-4-(3-chloro-phenyl)-2-methoxy-quinoline (300 mg, 0.859 mmol) and (3-chloro-thiophen-2-yl)-(3-methyl-3H-imidazol-4-yl)-methanone (230 mg 1.032 mmol) generated the title compound of 21A as a yellow solid (218.5 mg, 51% yield).

reactant | 6-bromo-4-(3-chloro-phenyl)-2-methoxy-quinoline | 0.859 mmol, 300 mg | BrC=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)Cl | C16H11BrClNO
reactant | (3-chloro-thiophen-2-yl)-(3-methyl-3H-imidazol-4-yl)-methanone | 1.032 mmol, 230 mg | ClC1=C(SC=C1)C(=O)C=1N(C=NC1)C | C9H7ClN2OS
product | [4-(3-Chloro-phenyl)-2-methoxy-quinolin-6-yl]-(3-chloro-thiophen-2-yl)-(3-methyl-3H-imidazol-4-yl)-methanol | 218.5 mg, 51% yield | ClC=1C=C(C=CC1)C1=CC(=NC2=CC=C(C=C12)C(O)(C=1N(C=NC1)C)C=1SC=CC1Cl)OC | C25H19Cl2N3O2S
